US03991200
Preparation of 2-[2-(Hydroxyethylamino)-5-thiadiazolyl] -1-methyl-5-nitroimidazole
A mixture consisting of 4.9 gm., 0.02 mole, of 2-(2-chloro-5-thiadiazolyl)-1-methyl-5-nitroimidazole, 3.0 gm., 0.05 mole, of ethanolamine, and 50 ml. of p-dioxane is stirred at room temperature for twenty-four hours. The precipitate is collected, washed with aqueous sodium bicarbonate solution, dried and recrystallized from methanol to give the pure compound melting at 208°-209° C. Working up the mother liquors gives additional material, the total yield being 3.4 gm.

reactant | 2-(2-chloro-5-thiadiazolyl)-1-methyl-5-nitroimidazole | ClN1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])C | C6H6ClN5O2S
reactant | ethanolamine | C(O)CN | C2H7NO
solvent | p-dioxane | O1CCOCC1 | C4H8O2
product | 2-[2-(Hydroxyethylamino)-5-thiadiazolyl] -1-methyl-5-nitroimidazole | OCCNN1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])C | C8H12N6O3S
